US08138189B2
Step 3: (4-Hydroxymethyl-pyrazol-1-yl)-acetic acid methyl ester
[4-(tert-Butyl-dimethyl-silanyloxymethyl)-pyrazol-1-yl]-acetic acid methyl ester (539 mg) was dissolved in CH3CN (8 mL) followed by the addition of aqueous HF solution (47-51%, 0.33 ml). Stirring was continued for 2 hours at r.t. The reaction mixture was poured into phosphate buffer solution (pH 7.0) and extracted with chloroform. The combined organic layers were washed with brine, dried over Na2SO4, filtered and the solvent was evaporated. The residue was purified by flash chromatography (silica gel, ethyl acetate) to give the title compound as a colorless oil (229 mg, 67%). MS (m/e)=171.2 [MH+].

reactant | [4-(tert-Butyl-dimethyl-silanyloxymethyl)-pyrazol-1-yl]-acetic acid methyl ester | 539 mg | COC(CN1N=CC(=C1)C(O[SiH2]C(C)(C)C)(C)C)=O | C13H24N2O3Si
reactant | phosphate | pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | CH3CN | 8 mL | CC#N | C2H3N
product | (4-Hydroxymethyl-pyrazol-1-yl)-acetic acid methyl ester | 229 mg, 67% | COC(CN1N=CC(=C1)CO)=O | C7H10N2O3
